US05344928
Ethyl 4-(N-methylanilino)butyrate (J.C.S. Perkin I, 1972, 1803) (22 g) was dissolved by addition of conc. hydrochloric acid (60 ml) under ice-cooling. To the solution was added a solution of sodium nitrite (8 g) in water (10 ml) dropwise at 0° to 4° C. with vigorous stirring. The mixture was stirred at the same temperature for 30 minutes. Then zinc powder (30 g) was added at below 10° C. The resulting mixture was further stirred for 30 minutes at 15° C. The zinc was filtered off. The filtrate was made alkaline with sodium bicarbonate and then was extracted with ether. The ether layer was dried over anhydrous sodium sulfate and concentrated. The residue was subjected to column chromatography on silica gel and developed with ethyl acetate/hexane (1:1) to obtain N-ethoxycarbonylpropyl-N-methyl-p-phenylenediamine (9 g).

reactant | Ethyl 4-(N-methylanilino)butyrate | 22 g | CN(C1=CC=CC=C1)CCCC(=O)OCC | C13H19NO2
reactant | hydrochloric acid | 60 ml | Cl | ClH
reactant | sodium nitrite | 8 g | N(=O)[O-].[Na+]
solvent | water | 10 ml | O | H2O
catalyst | zinc | 30 g | [Zn] | Zn
product | N-ethoxycarbonylpropyl-N-methyl-p-phenylenediamine | 9 g | C(C)OC(=O)CCCN(C1=CC=C(C=C1)N)C | C13H20N2O2
